US07642361B2
3-(4-tert-Butyl-phenyl)-4-cyano-5-ethyl-thiophene-2-carboxylic acid ethyl ester
Add diethylzinc (1.0M in hexanes, 16 mL, 16 mmol) to a solution of 3-(4-tert-butyl-phenyl)-4-cyano-5-methanesulfonyl-thiophene-2-carboxylic acid ethyl ester (2.78 mmol) in 15 mL of anhydrous CH2Cl2 and stir under nitrogen at room temperature for 5 days. Cool to 0° C. and carefully quench with ice followed by 10 mL of saturated NH4Cl. Filter the mixture through Celite® and rinse the filter pad with 100 mL of CH2Cl2. Wash the combined organic layers with brine (1×20 mL), dry over Na2SO4, filter and evaporate. Chromatograph over silica gel with 100% toluene to give the title compound as a clear oil, 625 mg (66%). MS (FAB)=341 (M+); HPLC=98%.

reactant | diethylzinc | 16 mmol, 1.0M, 16 mL | C(C)[Zn]CC
reactant | 3-(4-tert-butyl-phenyl)-4-cyano-5-methanesulfonyl-thiophene-2-carboxylic acid ethyl ester | 2.78 mmol | C(C)OC(=O)C=1SC(=C(C1C1=CC=C(C=C1)C(C)(C)C)C#N)S(=O)(=O)C | C19H21NO4S2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-tert-Butyl-phenyl)-4-cyano-5-ethyl-thiophene-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=C(C1C1=CC=C(C=C1)C(C)(C)C)C#N)CC | C20H23NO2S
